US08022062B2
Add potassium hydroxide (933 mg, 16.6 mmol) in one portion to a solution of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (200 mg, 0.52 mmol) in methanol (10 mL). Heat the reaction at reflux under nitrogen 4 h. Then cool to room temperature and add 1-(3-bromo-propyl)-3-isopropenyl-1,3-dihydro-benzoimidazol-2-one (142 mg, 0.52 mmol). Stir the reaction at room temperature overnight. Remove solvents in vacuo, extract into diethyl ether (2×50 mL), wash with water (2×50 mL) and brine (50 mL). Dry over MgSO4, filtrate and concentrate in vacuo to give 3-tert-butoxycarbonyl-7-chloro-6-[3-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (209 mg, 76%). MS (ES+) m/z: 550 (M+Na)+.

reactant | potassium hydroxide | 16.6 mmol, 933 mg | [OH-].[K+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.52 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 1-(3-bromo-propyl)-3-isopropenyl-1,3-dihydro-benzoimidazol-2-one | 0.52 mmol, 142 mg | BrCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C13H15BrN2O
solvent | methanol | 10 mL | CO | CH4O
product | 3-tert-butoxycarbonyl-7-chloro-6-[3-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 209 mg, 76% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCCCN2C(NC1=C2C=CC=C1)=O | C25H30ClN3O3S
